US04487929
3.45 g (30 mmol) of methanesulfonyl chloride were added dropwise to a stirred solution, cooled at 0° C., of 6.7 g (25 mmol) of methyl 2,3,5,8-tetrahydro-2-(2-hydroxyethyl)-2-methyl-1,3-dioxo-1H-pyrazolo[1,2-a]-pyridazine-5-carboxylate in 20 ml of dry pyridine. After 2 hours, the resulting suspension was poured on to ice/water and acidified with 2M hydrochloric acid. Extraction with dichloromethane then yielded 7.84 g (75%) of methyl 2,3,5,8-tetrahydro-2-(2-methanesulfonyloxyethyl)-2-methyl-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate having a melting point of 104°-105° C. (from diethyl ether).

reactant | methanesulfonyl chloride | 30 mmol, 3.45 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | methyl 2,3,5,8-tetrahydro-2-(2-hydroxyethyl)-2-methyl-1,3-dioxo-1H-pyrazolo[1,2-a]-pyridazine-5-carboxylate | 25 mmol, 6.7 g | OCCC1(C(N2N(CC=CC2C(=O)OC)C1=O)=O)C | C12H16N2O5
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | methyl 2,3,5,8-tetrahydro-2-(2-methanesulfonyloxyethyl)-2-methyl-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate | 7.84 g, 75% | CS(=O)(=O)OCCC1(C(N2N(CC=CC2C(=O)OC)C1=O)=O)C | C13H18N2O7S
